US04801605
To a solution of α-(2-ethoxycarbonylmethylthio-6-oxocyclohex-1-enyl)acetate (156 g) in acetic acid (500 mL) is added acetic anhydride (750 mL). The solution is heated to 100° and a solution of sulfuric acid (53 g) in acetic acid (250 mL) is added dropwise. After addition is completed, the solution is heated until gas evolution ceases and the solvent is then removed in high vacuo to yield an oil which is mixed with ether and water. The layers are separated and the organic layer is washed with water, saturated sodium bicarbonate until neutral and then again water. The organic layer is then dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to yield ethyl 6-acetoxy-2-(ethoxycarbonylmethylthio)-phenylacetate as an oil.

reactant | α-(2-ethoxycarbonylmethylthio-6-oxocyclohex-1-enyl)acetate | 156 g | C(C)OC(=O)CSC1=C(C(CCC1)=O)CC(=O)[O-]
reactant | acetic anhydride | 750 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 53 g | S(O)(O)(=O)=O | H2O4S
reactant | ether | CCOCC | C4H10O
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 250 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | ethyl 6-acetoxy-2-(ethoxycarbonylmethylthio)-phenylacetate | C(C)(=O)OC1=CC=CC(=C1CC(=O)OCC)SCC(=O)OCC | C16H20O6S
